US07786129B2
3-(5-Bromopentyl)-3-ethyl-6-fluoro-1,3-dihydro-2H-indol-2-one
The title compound is prepared according to process E starting from 3-ethyl-6-fluoro-1,3-dihydro-2H-indol-2-one and 1,5-dibromopentane.

reactant | 3-ethyl-6-fluoro-1,3-dihydro-2H-indol-2-one | C(C)C1C(NC2=CC(=CC=C12)F)=O | C10H10FNO
reactant | 1,5-dibromopentane | BrCCCCCBr | C5H10Br2
product | 3-(5-Bromopentyl)-3-ethyl-6-fluoro-1,3-dihydro-2H-indol-2-one | BrCCCCCC1(C(NC2=CC(=CC=C12)F)=O)CC | C15H19BrFNO
